US04910317
6M Methoxy-3-(1-methylethoxy)-N-lH-tetrazol-5-yl-benzo[b]-thiophene-2-carboxamide
Carbonyldiimidazole (3.8 g, 23 mmoles) is added to a stirred solution of 6-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxylic acid (5.4 gg, 20 mmoles) in tetrahydrofuran (75 mls) under nitrogen, and the mixture is heated under reflux. After 75 minutes 5-aminotetrazole (1.66 g. 20 mmoles) is added. After an additional three hours under reflux the mixture is stirred into water (350 mls) and acidified with concentrated HCl. The resulting precipitate is filtered off, rinsed with water, and dried. Recrystallization from DMF/methanol gave the pure product (4.0 g): mp=233°-234? C. (dec).

reactant | Carbonyldiimidazole | 23 mmoles, 3.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 6-methoxy-3-(1-methylethoxy)benzo[b]thiophene-2-carboxylic acid | 20 mmoles | COC=1C=CC2=C(SC(=C2OC(C)C)C(=O)O)C1 | C13H14O4S
reactant | 5-aminotetrazole | 20 mmoles, 1.66 g | NC1=NN=NN1 | CH3N5
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 75 mls | O1CCCC1 | C4H8O
solvent | water | 350 mls | O | H2O
product | Methoxy-3-(1-methylethoxy)-N-lH-tetrazol-5-yl-benzo[b]-thiophene-2-carboxamide | 4.0 g | COC1=CC=CC=2SC(=C(C21)OC(C)C)C(=O)NC2=NN=NN2 | C14H15N5O3S
